US07776872B2
2-Isopropyl-4-nitrophenol (4.7 g, 26 mmol) was dissolved in 100 mL of acetone, and 5.4 g (39 mmol) of K2CO3 was added, followed by 14.8 g (6.5 mL, 104 mmol) of iodomethane. The reaction flask was capped and the mixture was stirred at room temperature for 17 hours. The mixture was concentrated under reduced pressure, diluted with water and extracted with ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4), filtered and concentrated under reduced pressure to afford 4.53 g of 3-isopropyl-4-methoxynitrobenzene.

reactant | 2-Isopropyl-4-nitrophenol | 26 mmol, 4.7 g | C(C)(C)C1=C(C=CC(=C1)[N+](=O)[O-])O | C9H11NO3
reactant | K2CO3 | 39 mmol, 5.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 104 mmol, 6.5 mL, 14.8 g | IC | CH3I
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 3-isopropyl-4-methoxynitrobenzene | 4.53 g | C(C)(C)C=1C=C(C=CC1OC)[N+](=O)[O-] | C10H13NO3
